US08877741B2
(S)-Benzyl 1-(4-hydroxyphenyl)ethylcarbamate
5.00 g (22.9 mmol) 4-(1-amino-ethyl)-phenol hydrobromide are added to 10 mL THF and 10 mL H2O before 13.5 g (160 mmol) NaHCO3 are added. Then 3.60 mL (25.2 mmol) benzyl chloroformate are added dropwise and the reaction mixture is stirred at r.t. for 3 h. Afterwards the reaction mixture is quenched by the addition of water and is set to a gentle acidic pH value using citric acid (10% in water). Then the product is extracted with EtOAc, the combined organic layers are dried over MgSO4, filtered and the solvent is removed in vacuo. The crude product is purified by flash chromatography (silica gel, PE/EtOAc).

reactant | 4-(1-amino-ethyl)-phenol hydrobromide | 22.9 mmol, 5.00 g | Br.NC(C)C1=CC=C(C=C1)O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | NaHCO3 | 160 mmol, 13.5 g | C(=O)(O)[O-].[Na+]
reactant | benzyl chloroformate | 25.2 mmol, 3.60 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | H2O | 10 mL | O | H2O
product | (S)-Benzyl 1-(4-hydroxyphenyl)ethylcarbamate | OC1=CC=C(C=C1)[C@H](C)NC(OCC1=CC=CC=C1)=O | C16H17NO3
